US03993684
2-thienyl acrylic acid was prepared by reaction of 2-thiophene carboxaldehyde with malonic acid. A solution of 2-thiophene carboxaldehyde (25.7 g.), malonic acid (41.6 g.), pyridine (100 ml.), and piperidine (2 ml.) was refluxed for 31/2 hours. 2-thienyl acrylic acid was recovered from the reaction mixture in a manner parallel to that described in Example 41.

reactant | 2-thiophene carboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | 2-thiophene carboxaldehyde | 25.7 g | S1C(=CC=C1)C=O | C5H4OS
reactant | malonic acid | 41.6 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-thienyl acrylic acid | S1C(=CC=C1)C(C(=O)O)=C | C7H6O2S
